* C:\Users\krist\Documents\Homework\Engr\339_340\TeamSediSensor\Electronics\Simulation\TransAmpedance\test_TransAmpedanceAmplifier.asc
Vcc Vcc 0 5
V§-Vcc 0 -Vcc 5
Vtest Vtest 0 100m
Vtest2 Vtest2 0 SINE(2.5 5 1k)
Q1 N001 N004 0 0 NPN
R1 VopAmp N001 1Meg
V1 N003 0 0.5
XU2 0 N002 Vcc -Vcc VopAmp2 AD8031
Itest2 0 N004 2n
Q2 N002 N005 -Vcc 0 NPN
Itest1 0 N005 2n
R2 VopAmp2 N002 500k
Q3 Vcc N007 N006 0 NPN
Itest3 0 N007 2n
Q4 Vcc N008 N009 0 NPN
Itest4 0 N008 2n
Q5 Vcc N009 N011 0 NPN
R6 N011 0 10k
V2 N010 0 4
R5 N006 VopAmp3 330k
XU3 N010 N006 Vcc 0 VopAmp3 LT1001
XU1 N003 N001 Vcc 0 VopAmp AD8031
.model NPN NPN
.model PNP PNP
.lib C:\Users\krist\Documents\LTspiceXVII\lib\cmp\standard.bjt
.dc Itest4 0 20n  0.01n
.lib ADI.lib
.lib LTC.lib
.backanno
.end
